* C:\Users\Jan Frost\Desktop\ANS\ASLK_PRO\docs\spice\Experiment_09\9_1_2.asc
VG1 VG1 0 PULSE(2 8 0 50u 50u 0 0 100)
XU1 N002 VG1 vdd vss VF1 tl082
L1 N001 VF1 50m
C1 N001 0 200µ
R2 VF2 0 1k
XU3 vref VF2 vdd vss N003 tl082
VDD1 vdd 0 10
Vref3 vref 0 4
VSS1 0 vss 10
R1 VF2 N001 1k
R4 VF1 N002 1k
R3 N002 N003 5k
.inc tl082.cir
.tran 0.1
.backanno
.end
