***
*$
*  TPS7250 Model
*****************************************************************************
*  (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warrenties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: TPS7250
* Date: 02/13/2013
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLVS102G - MARCH 1995 - REVISED JUNE 2000
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
*
* Model Usage Notes:
* 
* 1. Input and quiescent current of the part have not been modeled.
* 2. Temperature effects have not been modeled.
* 3. Noise has not been modeled.
* 4. The SENSE pin is internally connected to the OUT pin. No SENSE
*     functionality is modeled.
*
*****************************************************************************
* source LDO_Create.php - TPS7250

.SUBCKT TPS7250 SENSE PG GND EN IN_0 IN_1 OUT_0 OUT_1
RIN_0 IN_0 IN 1e-3
RIN_1 IN_1 IN_0 1e-3
ROUT_0 OUT_0 OUT 1e-3
ROUT_1 OUT_1 OUT_0 1e-3
RSENSE SENSE OUT 1e-6
X1  OUT GND IN IN ENB_INT FBK_INT  LDO_BASIC 
+ PARAMS: 
+ rinp = 1.000e+7 
+ rout = 1.840e-1 
+ psrr = 3.162e-3 
+ pole = 1.000e+2 
+ zero = 3.000e+4 
+ venb = 1.200e+0 
+ ehys = 5.000e-2 
+ uvlo = 1.900e+0 
+ uhys = 1.000e-1 
+ vref = 1.188e+0 
+ drop = 1.900e-1 
+ ilim = 6.000e-1 
+ ttrn = 9.000e-5
E1 ENB_INT  0 VALUE { 2.400e+0 - V(EN) } 
R1  OUT FBK_INT  3.812MEG 
R2  FBK_INT GND 1.188MEG 
E7  PGX_INT   0 VALUE { 
+ IF(V(OUT)+5.000e-2*(1-V(PGY_INT))>4.750e+0, 0, 1)}
R7  PGX_INT PGY_INT  1k  
C7  PGY_INT   0  1p  
S7 PG GND PGY_INT   0 PGSWTCH
RSW GND PGY_INT 1G
.MODEL PGSWTCH VSWITCH RON=100 ROFF=1E8 VON=1 VOFF=0
.ENDS TPS7250 

*$
.SUBCKT ldo_basic out vgnd vin bias enb fbk 
+ PARAMS: 
+ rinp = 1e07 
+ rout = 0.1
+ psrr = 5e-4
+ pole = 100
+ zero = 10e3
+ venb = 1.0
+ ehys = 0.1
+ uvlo = 2.0
+ uhys = 0.1
+ vref = 1.20
+ drop = 0.25
+ ilim = 0.10
+ ttrn = 1e-4
R00 vin vxx  { rinp } 
C00 vin vxx  { 1/(6.28*rinp*pole) } 
EX1 vx1   0 VALUE {IF(V(enb, vgnd) + V(egd)*ehys > venb, 1, 0)}
RX1 vx1 egd 10
CX1 egd   0 1n
EX2 vx2   0 VALUE {IF(V(bias, vgnd) + V(vgd)*uhys > uvlo, 1, 0)}
RX2 vx2 vgd 10
CX2 vgd   0 1n
E01 v01 vgnd VALUE { 
+ IF(V(egd)>0.51&V(vgd)>0.51, { vref }, 0) }
R01 v01 ref {3.333e5*SQRT(ttrn)}
C01 ref vgnd {1e-6*SQRT(ttrn)}
E02 v02   0  VALUE {
+ V(ref)*(ABS(V(out)) + 1E-6)/(ABS(V(fbk)) + 1E-6) }
R02 v02 des 10
C02 des   0 1n
E03 drv   0 VALUE {
+ MIN(V(des), MAX(V(vin)-drop, 0))}
R03 drv vxx { psrr*rinp } 
C03 drv vxx { 1/(6.28*psrr*rinp*zero) } 
E04 vyy   0  VALUE { 
+ MIN(V(vxx), V(vzz) + ilim*rout) }
R04 vyy vzz { rout }
F04 vin vyy V04 1
V04 vzz out 0V
.ENDS ldo_basic

