* C:\users\selimcimen\Meine Dokumente\LTspice\Analoge_Schaltungen\Experiment_01\Aufgabe 1.3.2\Experiment_01.asc
R1 N001 0 1k
R2 vf2 N001 2.2k
R3 N002 vg 1k
R4 vf3 N002 2.2k
VG vg 0 PULSE(0 1 1u 10n 10n 1u 2u 4) AC 1
VDD vdd 0 10
VSS 0 vss 10
XU1 vg vf1 vdd vss vf1 tl082
XU2 vg N001 vdd vss vf2 tl082
XU3 0 N002 vdd vss vf3 tl082
.inc tl082.cir
;tran 10u
.ac dec 10u 1000 10000k
.backanno
.end
