* C:\users\selimcimen\Meine Dokumente\LTspice\Analoge_Schaltungen\Experiment_02\Aufgabe 2.2.3\monostabile_kippstufe.asc
VDD vdd 0 10
VSS 0 vss 10
XU1 N002 Vc vdd vss N001 tl082
R1 N002 N001 10000R
R2 0 N002 2000R
R3 Vc N001 220R
C1 Vc 0 1µC
D1 Vc 0 D
C2 N002 tr 1mC
V§Trigger tr 0 PWL(0ms 0 0.499ms 0 0.5ms -3 0.6ms -3 0.601ms 0 1.099ms 0 1.1ms 3 1.2ms 3 1.201ms 0 1.699ms 0 1.7ms -3 1.8ms -3 1.801ms 0 2.299ms 0 2.3ms 3 2.4ms 3 2.401ms 0)
.model D D
.lib C:\users\selimcimen\Meine Dokumente\LTspiceXVII\lib\cmp\standard.dio
.inc tl082.cir
.tran 3ms
.backanno
.end
