* C:\users\selimcimen\Meine Dokumente\LTspice\Analoge_Schaltungen\Experiment_02\Aufgabe 2.2.2\triangle_input.asc
VG Vin 0 PULSE(-10 10 1p 0.5m 0.5m 1p 0 6)
VDD vdd 0 10
VSS 0 vss 10
XU1 N001 0 vdd vss Vout tl082
R1 Vout N001 10000R
R2 N001 Vin 500R
.inc tl082.cir
.tran 6ms
.backanno
.end
