.SUBCKT BS250P 1 2 3

1=drain 2=gate 3=source
Cgs 2 3 20.1E-12 Cgd1 2 4 57.1E-12 Cgd2 1 4 5E-12 M1 1 2 3 3 MOST1 M2 4 2 1 3 MOST2 D1 1 3 Dbody .MODEL MOST1 PMOS(LEVEL=3 VTO=-2.3 W=7.6m L=2u KP=10.33u RD=4.014 RS=20m) .MODEL MOST2 PMOS(VTO=2.43 W=7.6m L=2u KP=10.33u RS=20m) .MODEL Dbody D(CJO=53.22E-12 VJ=0.5392 M=0.3583 IS=75.32E-15 N=1.016 RS=1.245 + TT=86.56n BV=45 IBV=10u) .ENDS


ZETEX BS250P Spice Model v1.0 Last Revised 19/3/03
   *
   .SUBCKT BS250P 3 4 5
   *                D G S
   M1 3 2 5 5 MBS250
   RG 4 2 160
   RL 3 5 1.2E8
   C1 2 5 47E-12
   C2 3 2 10E-12
   D1 3 5 DBS250
   *
   .MODEL MBS250 PMOS VTO=-3.193 RS=2.041 RD=0.697 IS=1E-15 KP=0.277
   +CBD=105E-12 PB=1 LAMBDA=1.2E-2
   .MODEL DBS250 D IS=2E-13 RS=0.309
   .ENDS BS250P
   *
   *$
   *
